US06713490B2
C. 6-{1-Hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl}-3,4-dihydroquinolin-2(1H)-one hydrochloride
To a suspension of 6-{1-Hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl}-3,4-dihydroquinolin-2(1H)-one (1.10 g, 2.77 mmol) in methanol (11 ml) was added 4N HCl-ethylacetate (0.76 ml, 3.05 mmol) at 0° C. and the reaction mixture was stirred at room temperature for 4 hours. The mixture was diluted with methanol (20 ml) and filtered. The filtrate was concentrated in vacuo and the obtained solid was recrystallized from 2-propanol to afford the title compound (1.10 g, 92%) as a white solid.

reactant | 6-{1-Hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl}-3,4-dihydroquinolin-2(1H)-one | 2.77 mmol, 1.10 g | OC(CN1CCC(CC1)(C1=CC(=CC=C1)OC)O)C=1C=C2CCC(NC2=CC1)=O | C23H28N2O4
reactant | HCl ethylacetate | 3.05 mmol, 4N, 0.76 ml | Cl.C(C)OC(C)=O
solvent | methanol | 11 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 6-{1-Hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl}-3,4-dihydroquinolin-2(1H)-one hydrochloride | 1.10 g, 92% | Cl.OC(CN1CCC(CC1)(C1=CC(=CC=C1)OC)O)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C23H28N2O4.ClH/c1-29-19-4-2-3-18(14-19)23(28)9-11-25(12-10-23)15-21(26)17-5-7-20-16(13-17)6-8-22(27)24-20;/h2-5,7,13-14,21,26,28H,6,8-12,15H2,1H3,(H,24,27);1H
